US04377691
In the practical preparation of the free ifenprodil, it is convenient to obtain the free ifenprodil directly from the reaction mixture, without once isolating ifenprodil hydrobromide, by adding ammonia water or a similar weakly basic substance to the filtrate from which solid matters including the catalyst have been removed, and concentrating the filtrate under reduced pressure to obtain the free compound as a residue which may, if desired, be purified by recrystallization from ethanol or isopropanol. The filtrate or mother liquor in the crystallization and/or recrystallization treatment may be subjected to silica gel column chromatography to recover a certain amount of ifenprodil. The total yields of ifenprodil can be increased by this after-treatment to about more than 90%. The free ifenprodil thus obtained may be reacted with an acid in a proper solvent to prepare an acid-addition salt with the acid.

reactant | ifenprodil hydrobromide | CC(C(C=1C=CC(=CC1)O)O)N2CCC(CC2)CC=3C=CC=CC3.Br
reactant | ammonia water | O.N
product | ifenprodil | CC(C(C=1C=CC(=CC1)O)O)N2CCC(CC2)CC=3C=CC=CC3 | C21H27NO2
